Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
L facial weakness/numbness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ RH F w PMHx of HTN and HLD who
presents to ___ ED with waxing and waning L facial and tongue
numbness, progressing to left facial weakness on the morning of
___.

Ms. ___ reports that her symptoms actually started ___ days
ago. She thought she was having sinus headaches - she would get 
a
frontal headache that then progressed to pain behind the eyes,
particularly the left eye. Every so often, she would have ___
minutes of numbness below the left eye that would resolve with
taking Sudafed. She has been taking around 4 Sudafed pills each
day.

On the morning of presentation, she woke up at 7:30AM and felt
well. She went to see friends at around noon, and while she was
having lunch she noted that the numbness in her L cheek was 
back,
but that it had also progressed to involve the L corner of the
mouth and L tongue. When she got home her symptoms seemed to
worsen, so she called her PCP. He instructed her to go to the ED
for further evaluation. When EMS arrived at her home to take her
to the hospital at around 2:30PM, they noted a L facial droop
that Ms. ___ had not noticed. 

Currently, she reports a dull occipital headache that is chronic
for her. She has numbness under the left eye and at the left
corner of the mouth that is difficult for her to characterize.
She initially says that her tongue symptoms have resolved, 
though
later in the interview they seem to have returned. 

On neurologic ROS, she denies confusion or speech difficulties.
She denies diplopia. She does report that about 1 week ago, she
noted "hazy" and "dim" vision out of her left eye. That seems to
be persistent. She denies dysarthria or dysphagia. She denies
focal weakness. She does have some tingling in the bilateral
calves and feet that she states is due to her "sciatica." No new
bowel or bladder difficulties. No difficulties with gait.

On general ROS, she denies fevers, rigors, night sweats, or
noticeable weight loss. She denies chest pain or palpitations.
She has some long-standing PND and sinus issues. She also has
chronic GI issues for which she is taking a probiotic. 

 
Past Medical History:
- HTN
- HLD
- anxiety
 
Social History:
___
Family History:
MGF - Stomach cancer, deceased at age ___
MGM - cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GEN - well appearing, well developed
HEENT - NC/AT, MMM
NECK - full ROM, no meningismus
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - atraumatic, WWP

NEUROLOGICAL EXAMINATION:
MS - Awake, alert, oriented x 3. Attention to examiner easily
attained and maintained. Concentration maintained when recalling
months backwards. Recalls a coherent history. Structure of 
speech
demonstrates fluency with full sentences, and normal prosody. No
paraphasic errors. Intact repetition, naming, reading, and
comprehension. 

CN - [II] R pupil ovoid 3->2, L pupil more irregular 4->3. VF
full to number counting. [III, IV, VI] Apparent restriction of L
eye abduction, though no double vision. [V] V1-V3 without
deficits to light touch bilaterally ("maybe if I really think
about it, a little around the mouth"). [VII] L NLFF at rest with
decreased activation. Strong eye closure and good frontalis
activation bilaterally. [VIII] Hearing intact to voice. [IX, X]
Palate elevation symmetric. No dysarthria. [XI] SCM/Trapezius
strength ___ bilaterally. [XII] Tongue midline with full ROM.

MOTOR - Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. Mild intention tremor L>R.
=[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas] 
[___]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]  [L5]
L  5-     5     5-    5     4+   4+    5      5     5    5     5
R  5      5     5     5     4+   4+    5      5     5    5     5

SENSORY - No deficits to light touch throughout. Reports 
modestly
decreased PP over RUE, intact in BLEs.

REFLEXES - 
=[Bic] [Tri] [___] [Quad] [___]
L 3      3      3      2+       2
R 3      3      3      2+       2
Plantar response mute bilaterally.

COORD - No dysmetria with finger to nose testing. Clumsiness 
with
RAM, L>R.

GAIT - Deferred.

DISCHARGE PHYSICAL EXAM:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Speech
was not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally.
V: Facial sensation intact to light touch.
VII: Slight facial asymmetry at lip, otherise symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Mild R pronator drift.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    5   4+  ___    4+ 5     5     5   4+

-Sensory: Decreased sensation to PP over L5 dermatomal
distribution, notably in lower back. Otherwise, no deficits to
light touch, pinprick, cold sensation, vibratory sense, or
proprioception. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: Mild action tremor L>R. No dysmetria on FNF
bilaterally.

-Gait: Deferred.

 
Pertinent Results:
___ 06:15AM BLOOD WBC-6.3 RBC-4.18 Hgb-12.6 Hct-37.9 MCV-91 
MCH-30.1 MCHC-33.2 RDW-12.5 RDWSD-41.5 Plt ___
___ 02:40PM BLOOD WBC-6.8 RBC-4.73 Hgb-14.1 Hct-42.4 MCV-90 
MCH-29.8 MCHC-33.3 RDW-12.3 RDWSD-40.6 Plt ___
___ 06:30AM BLOOD ___ PTT-28.4 ___
___ 06:15AM BLOOD Glucose-111* UreaN-33* Creat-0.7 Na-143 
K-4.1 Cl-105 HCO3-29 AnGap-13
___ 06:30AM BLOOD Glucose-105* UreaN-24* Creat-0.7 Na-142 
K-3.4 Cl-104 HCO3-27 AnGap-14
___ 02:40PM BLOOD ALT-20 AST-29 AlkPhos-74 TotBili-0.3
___ 06:30AM BLOOD Calcium-8.7 Phos-3.3 Mg-1.8
___ 02:40PM BLOOD Albumin-4.5 Cholest-220*
___ 02:40PM BLOOD %HbA1c-5.8 eAG-120
___ 02:40PM BLOOD Triglyc-430* HDL-51 CHOL/HD-4.3 
LDLmeas-109
___ 02:40PM BLOOD TSH-3.2
___ 02:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ H&N
Noncontrast CT of the head: No intracranial hemorrhage or CT
evidence of acute 
intracranial process. 
  
CTA: Patent anterior/posterior circulation and circle of ___
without 
evidence of high-grade stenosis, aneurysm, or dissection. 

___ Head w/ and w/o
1. No evidence of acute infarction or recent hemorrhage. 
Punctate chronic 
microhemorrhage in the right posterior parietal lobe. 
2. There is no evidence of abnormal enhancement after contrast
administration. 

___ C-Spine
1. Study is moderately degraded by patient motion. 
2. No concerning cord lesions identified.  No definite cord 
signal abnormality 
seen. 
3. Multifactorial multilevel moderate to severe cervical 
spondylosis, with 
severe bilateral neural foramina narrowing at C4-C5, and severe 
right neural 
foraminal narrowing at C6-C7 level. 
4. Grade 1 anterolisthesis is seen at C4-C5 level. 
5. Multiple bilateral perineural cyst, slightly more prominent 
at T1/T2 level. 

___
1) No specific echocardiographic evidence of cardiac source of 
embolus noted.
 2) Normal biventricular regional/global systolic function with 
grade II LV diastolic dysfunction and elevated LVEDP by E/e'.  
 
Brief Hospital Course:
Ms. ___ was hospitalized at ___ due to transient L facial 
numbness and L facial weakness/L CN VI deficit seen on 
admission. Upon repeat evaluation on Neurology floor, these 
deficits were resolved. Patient underwent MR imaging of brain 
and C-spine which showed no clear stroke but some cervical 
spondylosis which may have been producing some of pt's findings. 
She was placed in soft C-collar and underwent evaluation of 
stroke risk factors as well as Echo. She was started on Aspirin 
and her home Atorvastatin was increased to 40mg qhs. 

Transition Issues:
-Pt will need to continue taking Aspirin 81mg daily
-Pt will need to increase home Atorvastatin to 40mg every 
evening
-Pt will need to follow up with PCP and in ___ clinic (Dr. 
___
 
Medications on Admission:
- HCTZ 12.5mg qD
- omeprazole 20mg PRN
- Lipitor 20mg qD
- Vitamin B12 1000mcg qD
- probiotic
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*2 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth Every evening Disp 
#*30 Tablet Refills:*2 
3.  Hydrochlorothiazide 12.5 mg PO DAILY  
4.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervicofacial syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to transient left sided numbness as 
well as concern for left facial weakness, possibly related to 
stroke or other acute neurologic condition. You underwent MR 
imaging of brain and cervical spine which showed degenerative 
changes in spine. You were evaluated for stroke risk factors and 
started on aspirin. You underwent ultrasound of the heart which 
was normal. Due to appearing clinically stable, you will be 
discharged home.

Please continue taking Aspirin 81mg daily. Please increase your 
home Atorvastatin to 40mg every evening. Otherwise, continue 
your home medications.

Please follow up with your primary care provider ___ ___ 
weeks for post-hospitalization evaluation. 

Please follow up with Dr. ___ and Dr. ___ in 
Neurology ___. This appointment will be arranged and you will 
be contacted with details. 
 
Followup Instructions:
___